US06573274B1
To a solution of methyl 4-chloro-1,2-dimethyl-1H-benzimidazole-5-carboxylate (1.07 g) in anhydrous tetrahydrofuran (11 ml) was added portionwise lithium borohydride (198 mg) at room temperature and the mixture was stirred for 2 hr and heated to 60° C. Thereafter, lithium borohydride (99 mg) was added 3 times at 1 hr intervals. The reaction mixture was ice-cooled and adjusted to pH 2 with 1N hydrochloric acid. The mixture was stirred at room temperature for 30 min, and chloroform was added to the mixture. The precipitated crystals were collected by filtration to give 4-chloro-5-hydroxymethyl-1,2-dimethyl-1H-benzimidazole as colorless crystals (487 mg). The filtrate was extracted 6 times with chloroform:methanol=5:1. The organic layer was dried over anhydrous magnesium sulfate, filtrated and concentrated. The residue was crystallized from isopropyl ether to give the objective product as colorless crystals (417 mg).

reactant | methyl 4-chloro-1,2-dimethyl-1H-benzimidazole-5-carboxylate | 1.07 g | ClC1=C(C=CC=2N(C(=NC21)C)C)C(=O)OC | C11H11ClN2O2
reactant | lithium borohydride | 198 mg | [BH4-].[Li+]
reactant | lithium borohydride | 99 mg | [BH4-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
product | 4-chloro-5-hydroxymethyl-1,2-dimethyl-1H-benzimidazole | 487 mg | ClC1=C(C=CC=2N(C(=NC21)C)C)CO | C10H11ClN2O
